US08865744B1
1.00 g (4.97 mmol) of 2-methyl-2-[(tetrahydro-pyran-4-ylmethyl)-amino]propionic acid is suspended in 20 mL of EtOH. 350 mg Pd(OH)2 (0.50 mmol, w=20%) are added, followed by 0.74 mL of formaldehyde (9.88 mmol; 37% in water). The suspension is stirred for 24 h at 100° C. and 2916 kPa hydrogen pressure. The reaction mixture is filtered through celite and washed with EtOH. The solvent is removed under reduced pressure to afford 0.90 g of 2-methyl-2-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-propionic acid. Yield: 84%; ESI-MS: 216 [M+H]+

reactant | 2-methyl-2-[(tetrahydro-pyran-4-ylmethyl)-amino]propionic acid | 4.97 mmol, 1.00 g | CC(C(=O)O)(C)NCC1CCOCC1 | C10H19NO3
reactant | formaldehyde | 9.88 mmol, 0.74 mL | C=O | CH2O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 0.50 mmol, 350 mg | [OH-].[OH-].[Pd+2]
product | 2-methyl-2-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-propionic acid | 0.90 g, Yield: 84% | CC(C(=O)O)(C)N(CC1CCOCC1)C | C11H21NO3
